US07629340B2
(S)-2-(3′-Cyano-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (Compound 6307)
A solution of (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (90.4 mg, 0.20 mmol), 3-bromo-benzonitrile (37.5 mg, 0.21 mmol), and Pd[P(Ph)3]4 (15.9 mg, 6.9 mol %) in methanol (2 mL), NaHCO3 (sat. aq., 300 μL), and DMF (400 μL) was degassed and heated to 70° C. overnight in a sealed vial. The reaction was cooled, filtered, and purified by reverse phase HPLC to give the desired product. Yield 11.7 mg. MS: 426.1 (M+H+); H1 NMR (DMSO-d6): δ (ppm) 1.80-2.04 (m, 3H), 2.15-2.36 (m, 1H), 3.39-3.58 (m 2H), 4.32-4.43 (m, 1H), 4.89-5.14 (m, 2H), 7.03-8.07 (m, 13H), 10.13-10.20 (s, 1H).

reactant | (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.20 mmol, 90.4 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H31BN2O5
reactant | 3-bromo-benzonitrile | 0.21 mmol, 37.5 mg | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | DMF | 400 μL | CN(C)C=O | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
solvent | NaHCO3 | 300 μL | C(=O)(O)[O-].[Na+]
product | (S)-2-(3′-Cyano-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1C=C(C=CC1)C1=CC(=CC=C1)C#N)=O | C26H23N3O3
